US07667041B2
Synthesis of 2-(4-fluorophenyl)-3-methoxymethoxy-2-methylpropionic acid
To a methyl chloride (10 mL)-and-THF (5 mL) solution of 2-(4-fluorophenyl)-3-hydroxy-2-methylpropionic acid methyl ester (825 mg) synthesized according to the method described in Tetrahedron Letters, 1999, vol. 40, p. 5467, IPEA (2 mL) and chloromethyl methyl ether (0.74 mL) were added at 0° C. The reaction solution was agitated at 0° C. for 1 hour, and then at room temperature for 10 hours. 1N hydrochloric acid and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. The organic layer obtained was washed with saturated sodium bicarbonate water, dried over magnesium sulfate, and then concentrated under reduced pressure. To a methanol (5 mL) solution of the obtained residue, 5N sodium hydroxide aqueous solution (4 mL) was added, and the reaction solution was agitated at room temperature for 10 hours. 5N hydrochloric acid (4 mL) and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. The organic layer obtained was dried over magnesium sulfate and concentrated under reduced pressure to obtain 850 mg of the title compound. The physical properties of the compound are as follows.

reactant | methyl chloride | 10 mL | CCl | CH3Cl
reactant | 2-(4-fluorophenyl)-3-hydroxy-2-methylpropionic acid methyl ester | 825 mg | COC(C(CO)(C)C1=CC=C(C=C1)F)=O | C11H13FO3
reactant | IPEA | 2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 0.74 mL | COCCl | C2H5ClO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(4-fluorophenyl)-3-methoxymethoxy-2-methylpropionic acid | 850 mg | FC1=CC=C(C=C1)C(C(=O)O)(COCOC)C | C12H15FO4
